data/mechanisms/records/IMS9-EQ9.4b.json
{"mechanism_id": "IMS9-EQ9.4b", "species": [{"species_id": "myrcene_molecular_ion", "mapped_smiles": "[CH2:1]=[CH:2][C:3](=[CH2:10])[CH2:4][CH2:5][CH:6][C+:7]([CH3:8])[CH3:9]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "c5h9_allyl_cation", "mapped_smiles": "[CH2:5]=[CH:6][C+:7]([CH3:8])[CH3:9]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "c5h7_allylic_radical", "mapped_smiles": "[CH2:1]=[CH:2][C:3](=[CH2:10])[CH2:4]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["myrcene_molecular_ion"]}, {"state_id": "state_products", "species_ids": ["c5h9_allyl_cation", "c5h7_allylic_radical"]}], "steps": [{"step_id": "step_doubly_allylic_alpha_cleavage", "from_state": "state_precursor", "to_state": "state_products", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [6]}, "target": {"type": "bond", "atom_maps": [5, 6]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [4, 5]}, "target": {"type": "bond", "atom_maps": [5, 6]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [4, 5]}, "target": {"type": "atom", "atom_maps": [4]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_9_4b", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_doubly_allylic_alpha_cleavage", "support_type": "textbook_proposed", "locator": {"page": 230, "equation": "9.4", "figure": null, "panel": "lower scheme, labelled 'Myrcene'; plain (not crossed-out) reaction arrow", "section": "Unsaturated aliphatic hydrocarbons (9 / Mass Spectra of Common Compound Classes)"}, "confidence": 0.9, "curator_note": "Book draws 2 arc(s); moves <1,3> are drawn, move <2> is an implicit hook required for electron balance (not drawn on the page): (i) the RIGHT fishhook has its tail under the C(6)=C(7) double bond - the ionized bond the bracket '+.' refers to - and its barb pointing up at the C(5)-C(6) bond = move 1 (odd electron into the forming pi bond); (ii) the LEFT fishhook has its tail on the cleaving C(4)-C(5) bond and its barb pointing left into the C(3)-C(4) bond region of the departing fragment = move 3 (the homolysis hook). NOT drawn: move 2, the second electron of the cleaving C(4)-C(5) bond entering the forming C(5)=C(6) pi bond. The two arcs sit in exactly the same places as in the crossed-out allo-Ocimene panel above; the panels differ only in the substrate. BARB PLACEMENT, stated honestly: the barb of arc (ii) lands in the C(3)-C(4) bond region rather than on C(4). One fishhook alone cannot raise C(3)-C(4) to a double bond (that needs two electrons and an additional, undrawn arc opening the exocyclic C(3)=C(10) pi bond), so this record deposits the electron on C(4), giving .CH2-C(=CH2)-CH=CH2. That radical is allylically delocalized, and its partner canonical form - odd electron on the exocyclic methylene C(10) with C(3)=C(4) double - is exactly what the barb pointing INTO the C(3)-C(4) bond depicts. This is the book's stated reason for the difference between the two panels: the cleaved C(4)-C(5) bond is allylic to the C(3)=C(10) methylene on one side and to C(6)=C(7) on the other, i.e. 'the cleaved bond is doubly allylic', so the channel is enhanced in myrcene while for allo-ocimene (where C(4) is sp2 and the departing radical would be vinylic) the arrow is crossed out. STRUCTURE AS DRAWN: CH2=CH-C(=CH2)-CH2-CH2-CH=C(CH3)2 (7-methyl-3-methyleneocta-1,6-diene, beta-myrcene); the drawing differs from the panel above only in that the substituent on C(3) is an exocyclic methylene (double vertical line) instead of a methyl, which makes C(3)-C(4) a single bond and C(4) an sp3 CH2. LOCALIZATION (convention B): the page draws the intact molecule in a bracket with '+.' outside, so this record localizes the ionized C(6)=C(7) pi bond as an odd electron on C(6) (where arc (i) starts) and the charge on C(7), the tertiary-cation end of the drawn product. RESONANCE (convention C): the product ion is printed as a delocalized allyl cation (an arc over C(5)-C(6)-C(7) with '+' underneath, no localized double bond); the form written here, CH2=CH-C(+)(CH3)2, is the one the arrows produce, its partner being (+)CH2-CH=C(CH3)2. MEASUREMENTS (convention F): the page prints NO m/z and NO intensity - the products are labelled only 'C5H7.' and a structure carrying '+' - so both products are detected=false, no relative_intensity is recorded, and the 69.0699 in peak_assignments is the curator-computed monoisotopic m/z of C5H9+ (status 'inferred'), not a measured value. The prose calls this ion abundant only indirectly, via the homosqualene (M-83)+ discussion that follows."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 136.1247, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_c5h9_69", "species_id": "c5h9_allyl_cation", "step_id": "step_doubly_allylic_alpha_cleavage", "observed_mz": 69.0699, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.7}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-30T00:00:00Z", "modified_at": "2026-07-30T00:00:00Z"}}
